US06605600B1
8-(5-Hydroxy-5-hydroxymethyl-tricyclo[2.2.1.02,6]hept-3-yl)-1,3-dipropyl-3,7-dihydro-purine-2,6-dione
8-(5-Methylene-tricyclo[2.2.1.02,6]hept-3-yl)-1,3-dipropyl-3,7-dihydro-purine-2,6-dione (284 mg) was taken in acetone:water (1:1, 5 ml) at 0° C. OsO4 (2 ml) was added and the mixture was stirred for 15 min. N-Methylmorpholine-N-oxide (120 mg) was added and the mixture was stirred at room temperature overnight. The next day the reaction mixture was quenched with NaHSO3 solution, extracted with ethyl acetate (3×25 ml). Combined organic layer was washed with water, brine and dried over Na2SO4. After concentration the crude product was purified on a silica column. (ES+ 375)

reactant | 8-(5-Methylene-tricyclo[2.2.1.02,6]hept-3-yl)-1,3-dipropyl-3,7-dihydro-purine-2,6-dione | 284 mg | C=C1C2C(C3C(C13)C2)C2=NC=1N(C(N(C(C1N2)=O)CCC)=O)CCC | C19H24N4O2
reactant | N-Methylmorpholine-N-oxide | 120 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | acetone water | 5 ml | CC(=O)C.O
catalyst | OsO4 | 2 ml | O=[Os](=O)(=O)=O
product | 8-(5-Hydroxy-5-hydroxymethyl-tricyclo[2.2.1.02,6]hept-3-yl)-1,3-dipropyl-3,7-dihydro-purine-2,6-dione | OC1(C2C(C3C(C13)C2)C2=NC=1N(C(N(C(C1N2)=O)CCC)=O)CCC)CO | C19H26N4O4
